US06207686B1
To a solution of methyl (2RS,3SR)-2-(2-benzyloxyphenyl)-3-cyclohexyl-3-hydroxypropionate (500 mg) in ethanol (10 ml) was added a 1N aqueous solution of sodium hydroxide (5 ml). After being stirred for 24 hours the mixture was concentrated under reduced pressure. The residue was washed with diethyl ether and acidified by 1N aqueous hydrochloric acid solution. The separated oily product was extracted by ethyl acetate. The organic layer was washed with brine, dried and evaporated under reduced pressure to afford (2RS,3SR)-2-(2-benzyloxyphenyl)-3-cyclohexyl-3-hydroxypropionic acid (321 mg).

reactant | methyl (2RS,3SR)-2-(2-benzyloxyphenyl)-3-cyclohexyl-3-hydroxypropionate | 500 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(C(=O)OC)C(O)C1CCCCC1 | C23H28O4
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (2RS,3SR)-2-(2-benzyloxyphenyl)-3-cyclohexyl-3-hydroxypropionic acid | 321 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(C(=O)O)C(O)C1CCCCC1 | C22H26O4
